US05547954
A mixture of 2.8 grams (0.012 mole) of 2-amino-3-cyano-4-methyl-5-(trimethylsilylethynyl)pyridine and 1.8 grams (0.012 mole) of potassium carbonate in 100 mL of methanol is stirred at ambient temperature for one hour. The reaction mixture is then concentrated under reduced pressure to a residue. The residue is taken up in about 150 mL of water, and the solution is extracted with two 250 mL portions of diethyl ether. The combined extracts are dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 2-amino-3-cyano-4-methyl-5-ethynylpyridine.

reactant | 2-amino-3-cyano-4-methyl-5-(trimethylsilylethynyl)pyridine | 0.012 mole, 2.8 grams | NC1=NC=C(C(=C1C#N)C)C#C[Si](C)(C)C | C12H15N3Si
reactant | potassium carbonate | 0.012 mole, 1.8 grams | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-amino-3-cyano-4-methyl-5-ethynylpyridine | NC1=NC=C(C(=C1C#N)C)C#C | C9H7N3
